US04423070
A solution of bromine (3.15 ml., 0.061 mole) in chloroform (50 ml.) was added dropwise at room temperature to a stirred solution of 3',4'-bis(pivaloyloxy)acetophenone (19.5 g., 0.061 mole) and t-butyl acetate (8.2 ml., 0.06 mole) in chloroform (150 ml.) containing a catalytic amount of anhydrous aluminium chloride (0.2 g.). The reaction mixture was stirred at room temperature for 1 hour after the addition was complete, chromatographic silica gel (75 g.) was then added and the mixture evaporated in vacuo. The residual solid was added to the top of a column of dry chromatographic silica-gel (1 kg., previously deactivated by addition of 10% w/w water and then equilibrated with 10% v/w of a 5% v/v solution of ethyl acetate in toluene). The column was developed by elution with a 5% v/v solution (1.1 l.) of ethyl acetate in toluene. The column was then eluted with ethyl acetate (2×500 ml.) and the fractions collected were monitored by thin layer chromatography (TLC) (on silica plates developed in a 50% v/v mixture of ethyl acetate and toluene). The later fractions were combined and evaporated to give 2-bromo-3',4'-bis(pivaloyloxy)acetophenone as an oil (14.2 g.) which rapidly crystallised to give a solid of m.p. 64°-66° C.

reactant | bromine | 0.061 mole, 3.15 ml | BrBr | Br2
reactant | 3',4'-bis(pivaloyloxy)acetophenone | 0.061 mole, 19.5 g | C(C(C)(C)C)(=O)OC=1C=C(C=CC1OC(C(C)(C)C)=O)C(C)=O | C18H24O5
reactant | t-butyl acetate | 0.06 mole, 8.2 ml | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | aluminium chloride | 0.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-3',4'-bis(pivaloyloxy)acetophenone | BrCC(=O)C1=CC(=C(C=C1)OC(C(C)(C)C)=O)OC(C(C)(C)C)=O | C18H23BrO5
